US04728645
5-(p-Hydroxymethylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
A solution of 0.40 g of 5-(p-ethoxycarbonylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine in 20 ml of methylene chloride is cooled to -70° under nitrogen and 4.0 ml of a 1.53M diisobutylaluminium hydride solution in toluene is added dropwise. The reaction mixture is allowed to warm to room temperature, quenched with 3.2 ml of methanol and 15 ml of water and filtered through Celite®. The layers are separated, the organic one is dried over sodium sulfate and evaporated to yield the title compound, m.p. 142°-145°.

reactant | 5-(p-ethoxycarbonylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 0.40 g | C(C)OC(=O)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C16H18N2O2
reactant | diisobutylaluminium hydride | 1.53M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(p-Hydroxymethylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | OCC1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H16N2O
